US09085583B2
A mixture of methyl 5-methyl-1-phenethyl-1H-pyrazole-4-carboxylate (177 mg, 0.72 mmol), lithium hydroxide monohydrate (111 mg, 2.62 mmol), tetrahydrofuran (5 mL), methanol (1 mL) and water (1 mL) was stirred at 20° C. for 4 hours. The mixture was acidified to pH=1 with concentrated hydrochloric acid and then extracted with ethyl acetate (15 mL×3). The combined organic phase was dried by sodium sulfate, and then filtered. The filtrate was concentrated in vacuum and separated by HPLC (condition: column AD-H (20 mm*250 mm*5 μm), hexane:ethanol (0.2% DEA)=50:50, flow rate: 13 mL/min) to give 5-methyl-1-phenethyl-1H-pyrazole-4-carboxylic acid (60 mg, 36%). LRMS (M+H+) m/z: calcd. 230.11; found 230.

reactant | methyl 5-methyl-1-phenethyl-1H-pyrazole-4-carboxylate | 0.72 mmol, 177 mg | CC1=C(C=NN1CCC1=CC=CC=C1)C(=O)OC | C14H16N2O2
reactant | lithium hydroxide monohydrate | 2.62 mmol, 111 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 5-methyl-1-phenethyl-1H-pyrazole-4-carboxylic acid | 60 mg, 36% | CC1=C(C=NN1CCC1=CC=CC=C1)C(=O)O | C13H14N2O2
